US04615725
16 g (0.044 mole) of 2-bromomethyl-5-[1-(4-chlorophenoxy)-2-methylprop-2-yl]-5-methyl-tetrahydrofuran are stirred together with 11 g (0.097 mole) of cis-3,5-dimethylpiperidine at a bath temperature of 140° C. for about 14 hours. The resulting reaction mixture is taken up in ether and the mixture is washed several times with water, dried over sodium sulphate and concentrated in vacuo. The oily residue is purified by column chromatography (silica gel 60, ether-petroleum ether 1:1). 7.8 g (45% of theory) of 5-[1-(4-chlorophenoxy)-2-methylprop-2-yl]-2-(cis)-(3,5-dimethylpiperidin-1-ylmethyl)-5-methyl-tetrahydrofuran of refractive index nD20 1.5049 are obtained.

reactant | 2-bromomethyl-5-[1-(4-chlorophenoxy)-2-methylprop-2-yl]-5-methyl-tetrahydrofuran | 0.044 mole, 16 g | BrCC1OC(CC1)(C)C(COC1=CC=C(C=C1)Cl)(C)C | C16H22BrClO2
reactant | cis-3,5-dimethylpiperidine | 0.097 mole, 11 g | C[C@@H]1CNC[C@@H](C1)C | C7H15N
solvent | ether | CCOCC | C4H10O
product | 5-[1-(4-chlorophenoxy)-2-methylprop-2-yl]-2-(cis)-(3,5-dimethylpiperidin-1-ylmethyl)-5-methyl-tetrahydrofuran | 7.8 g, 45% | ClC1=CC=C(OCC(C)(C)C2(CCC(O2)CN2C[C@H](C[C@H](C2)C)C)C)C=C1 | C23H36ClNO2
